US07253286B2
N-(4-(6-Cyano-7-methoxy-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea
4-(4-Aminophenoxy)-6-cyano-7-methoxyethoxyquinoline (150 mg) was added to 5.0 ml of toluene and 2.5 ml of acetonitrile, and the mixture was heated to reflux. After then adding 4-fluorophenyl isocyanate (0.12 ml), the mixture was further heated to reflux for 1 hour. After cooling, the precipitated solid was filtered out and washed with ethyl acetate/toluene=1/1 to obtain 150 mg of the title compound as light brown crystals (68% yield).

reactant | 4-(4-Aminophenoxy)-6-cyano-7-methoxyethoxyquinoline | 150 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCOC)C=C1 | C19H17N3O3
reactant | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-fluorophenyl isocyanate | 0.12 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | N-(4-(6-Cyano-7-methoxy-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea | 150 mg, 68% yield | C(#N)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C24H17FN4O3
